US07144881B2
Step C: Preparation of 2-(4-chloro-phenyl)-cyclopropanecarboxylic acid
A mixture of 2-(4-chloro-phenyl)-cyclopropanecarboxylic acid methoxy-methyl-amide (9.6 g), water (20 mL), and NaOH (3.2 g) in MeOH (40 mL) was refluxed for 3 h. The reaction mixture was cooled down to room temperature and concentrated in vacuo. The residue was acidified by 6 N HCl followed by extraction with CH2Cl2. The organic layer was washed with brine, dried over MgSO4 and concentrated in vacuo to give the title compound (7.3 g).

reactant | 2-(4-chloro-phenyl)-cyclopropanecarboxylic acid methoxy-methyl-amide | 9.6 g | CON(C(=O)C1C(C1)C1=CC=C(C=C1)Cl)C | C12H14ClNO2
reactant | water | 20 mL | O | H2O
reactant | NaOH | 3.2 g | [OH-].[Na+]
solvent | MeOH | 40 mL | CO | CH4O
product | 2-(4-chloro-phenyl)-cyclopropanecarboxylic acid | 7.3 g | ClC1=CC=C(C=C1)C1C(C1)C(=O)O | C10H9ClO2
